US08222416B2
A mixture of 2-[2-cyclopentyl-1-(5-methanesulfonyl-pyridin-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine (84 mg, 0.23 mmol) and 10% palladium on activated carbon (50 mg) in methanol (150 mL) was heated at 50° C. under hydrogen (5 atm) for 5 h. After cooling to room temperature, the catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[2-cyclopentyl-1-(5-methanesulfonyl-pyridin-2-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (18 mg, 21%): LC/MS m/e calcd for C20H23N3O2S [M+H]+ 370.49, observed 370.0; 1H NMR (400 MHz, CDCl3) δ ppm 1.17 (m, 2H), 1.47 (m, 2H), 1.61 (m, 3H), 1.77 (m, 2H), 2.25 (m, 2H), 3.08 (s, 3H), 4.44 (t, J=7.7 Hz, 1H), 6.44 (s, 1H), 7.11 (dd, J=4.9, 7.8 Hz, 1H), 7.49 (d, J=8.2 Hz, 1H), 7.95 (d, J=7.8 Hz, 1H), 8.13 (dd, J=2.3 Hz, J=8.2 Hz, 1H), 8.27 (d, J=4.9 Hz, 1H), 9.14 (d, J=2.0 Hz, 1H), 10.97 (br, 1H).

reactant | 2-[2-cyclopentyl-1-(5-methanesulfonyl-pyridin-2-yl)-vinyl]-1H-pyrrolo[2,3-b]pyridine | 0.23 mmol, 84 mg | C1(CCCC1)C=C(C1=NC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=CC2)N1 | C20H21N3O2S
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | methanol | 150 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(5-methanesulfonyl-pyridin-2-yl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 18 mg, 21% | C1(CCCC1)CC(C1=NC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=CC2)N1 | C20H23N3O2S
